US06362177B1
A solution of 4-[{N-(3-(trifluoromethyl)benzoyl)glycyl}aminomethyl]piperidine (30 mg, 0.087 mmol) in CH3CN (1.0 mL) and (piperidinomethyl)polystyrene (80 mg, 2.7 mmol base/g resin) were added to a solution of 4-chlorobenzyl chloride (11.7 mg, 0.073 mmol) in CH3CN (1.0 mL). The reaction mixture was stirred at 60° C. for 2 h. Phenyl isocyanate (10.4 mg, 0.087 mmol) was added to the cooled reaction mixture and the mixture was stirred at 25° C. for 1 h. The reaction mixture was loaded onto Varian™ SCX column and washed with CH3OH (20 mL). Product was eluted off using 2 N NH3 in CH3OH (6 mL) and concentrated to afford 1-(4-chlorobenzyl)-4-[{N-(3-(trifluoromethyl)benzoyl)glycyl}aminomethyl]piperidine as a colorless oil used without purification. Iodomethane (28 mg, 0.20 mmol) was added to a solution of 1-(4-chlorobenzyl)-4-[{N-(3-(trifluoromethyl)benzoyl)glycyl}aminomethyl]piperidine in CH3CN (2.0 mL) and the reaction mixture was stirred at 70° C. for 4 h. The solvent was removed under reduced pressure to afford 1-(4-chlorobenzyl)-1-methyl-4-[{N-(3-(trifluoromethyl)benzoyl)glycyl}aminomethyl]piperidinium iodide as a pale yellow oil (31.7 mg, 71%): The purity was determined by RPLC/MS (99%;); ESI/MS m/e 482.1 (M+, C24H28ClF3N3O2).

reactant | Iodomethane | 0.20 mmol, 28 mg | IC | CH3I
reactant | 1-(4-chlorobenzyl)-4-[{N-(3-(trifluoromethyl)benzoyl)glycyl}aminomethyl]piperidine | ClC1=CC=C(CN2CCC(CC2)CNC(CNC(C2=CC(=CC=C2)C(F)(F)F)=O)=O)C=C1 | C23H25ClF3N3O2
solvent | CH3CN | 2.0 mL | CC#N | C2H3N
product | 1-(4-chlorobenzyl)-1-methyl-4-[{N-(3-(trifluoromethyl)benzoyl)glycyl}aminomethyl]piperidinium iodide | 31.7 mg, 71% | [I-].ClC1=CC=C(C[N+]2(CCC(CC2)CNC(CNC(C2=CC(=CC=C2)C(F)(F)F)=O)=O)C)C=C1 | InChI=1S/C24H27ClF3N3O2.HI/c1-31(16-18-5-7-21(25)8-6-18)11-9-17(10-12-31)14-29-22(32)15-30-23(33)19-3-2-4-20(13-19)24(26,27)28;/h2-8,13,17H,9-12,14-16H2,1H3,(H-,29,30,32,33);1H
